US06617336B1
64 g (397 mmol) of 8-hydroxyquinoline N-oxide, 550 ml of acetic anhydride and 40 ml of acetic acid are placed in a 1 l round-bottomed flask. The reaction mixture is heated at reflux (135° C.) for 24 h, 40 ml of acetic acid are then again added and heating is continued for 1 h 30. The reaction mixture is allowed to return to ambient temperature and 400 ml of toluene are added. A precipitate appears and is filtered off. A further 400 ml of toluene are added and filtration is carried out. The precipitate is washed with 200 ml of ethyl ether and is dried in a desiccator under vacuum over phosphorus pentoxide to provide to provide 70.5 g of 2-acetoxy-8-hydroxyquinoline in the form of a brown solid. (Yield: 88%)

reactant | 8-hydroxyquinoline N-oxide | 397 mmol, 64 g | OC=1C=CC=C2C=CC=[N+](C12)[O-] | C9H7NO2
reactant | acetic anhydride | 550 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
reactant | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | 2-acetoxy-8-hydroxyquinoline | 70.5 g, Yield: 88% | C(C)(=O)OC1=NC2=C(C=CC=C2C=C1)O | C11H9NO3
